US04785017
Into a solution of 2.23 g of racemic-ethyl 6-hydroxychroman-2-carboxylate in 30 ml of acetic acid was introduced a stream of boron trifluoride gas at 20°-25° C. A cold water bath was used during the introduction of the gas (30-45 minutes) to control the temperature of the exothermic reaction. The cold bath was removed and the reaction mixture was heated at 80° C. for 5 hours; then the reaction mixture was cooled and carefully poured into a mixture of saturated bicarbonate and ice, and the product was extracted with 1:1 tetrahydrofuran-ether. The crude material obtained after evaporation of the solvent was chromatographed on a silica gel column to yield 1.6 g (60%) of racemic-7-acetyl-6-hydroxy-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid ethyl ester as a viscous oil.

reactant | racemic-ethyl 6-hydroxychroman-2-carboxylate | 2.23 g | OC=1C=C2CCC(OC2=CC1)C(=O)OCC | C12H14O4
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | racemic-7-acetyl-6-hydroxy-3,4-dihydro-2H-1-benzopyran-2-carboxylic acid ethyl ester | 1.6 g, 60% | C(C)OC(=O)C1OC2=C(CC1)C=C(C(=C2)C(C)=O)O | C14H16O5
